US07501411B2
Step 1: 4-Bromo-5-(tert-butyl-dimethyl-silanyloxymethyl)-1H-pyrazole
A solution of (4-bromo-2H-pyrazol-3-yl)-methanol (0.64 mg, 3.63 mmol), tert-butyldimethylsilyl chloride (0.82 g, 5.45 mmol) and imidazole (0.42 g, 6.18 mmol) in N,N-dimethylformamide (20 mL) is stirred at room temperature overnight. The reaction mixture is diluted with a 50:50 mixture diethyl ether:ethyl acetate and washed with water (3×). The organic layers are dried over MgSO4, filtered and concentrated. The residue is purified by silica gel column chromatography eluting with 80:20 petroleum ether:ethyl acetate to afford the title compound (1.035 g, 98%).

reactant | (4-bromo-2H-pyrazol-3-yl)-methanol | 3.63 mmol, 0.64 mg | BrC1=C(NN=C1)CO | C4H5BrN2O
reactant | tert-butyldimethylsilyl chloride | 5.45 mmol, 0.82 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 6.18 mmol, 0.42 g | N1C=NC=C1 | C3H4N2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-Bromo-5-(tert-butyl-dimethyl-silanyloxymethyl)-1H-pyrazole | 1.035 g, 98% | BrC=1C=NNC1C(O[SiH2]C(C)(C)C)(C)C | C10H19BrN2OSi
